US07345056B2
Acetone-1,3-dicarboxylic acid (13.8 g, 94.96 mmol) and sodium acetate (7.94 g, 96.8 mmol) were added to a solution of bis-(2-oxo-ethyl)-carbamic acid tert-butyl ester (19.1 g, 94.96 mmol) in H2O (118 mL). Benzylamine (10.3 mL, 94.96 mmol) was dissolved in aqueous HCl (3 N, 63 mL) and was subsequently added to the stirring solution of the dialdehyde and the dicarboxylic acid over a 15 minute period. The reaction mixture was stirred for 3 days at room temperature after which the pH was adjusted to 8 by the addition of potassium carbonate. The resulting solution was extracted with methylene chloride (4×70 mL), the organic extracts dried (Na2SO4), filtered and concentrated under vacuum. The resulting residue was purified by silica gel chromatography, (eluant hexane/EtOAc 9/1 to 1/1, v/v), to give 15.1 g (48%) of 9-benzyl-7-oxo-3,9-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester as a brown oil. Retention time (min)=1.195, method [1], MS(ESI) 331.2 (M+H); 1H NMR (300 MHz, CDCl3) δ 7.43-7.15 (m, 5H), 4.00-3.81 (m, 4H), 3.21 (bs, 2H), 3.20-2.98 (m, 2H), 2.62 (dd, J=15.9 Hz, 5.5 Hz, 2H), 2.28-2.17 (m, 2H), 1.42 (s, 9H).

reactant | Acetone-1,3-dicarboxylic acid | 94.96 mmol, 13.8 g | C(C(=O)CC(=O)O)C(=O)O | C5H6O5
reactant | sodium acetate | 96.8 mmol, 7.94 g | C(C)(=O)[O-].[Na+]
reactant | bis-(2-oxo-ethyl)-carbamic acid tert-butyl ester | 94.96 mmol, 19.1 g | C(C)(C)(C)OC(N(CC=O)CC=O)=O | C9H15NO4
reactant | Benzylamine | 94.96 mmol, 10.3 mL | C(C1=CC=CC=C1)N | C7H9N
reactant | potassium carbonate | C([O-])([O-])=O.[K+].[K+]
solvent | H2O | 118 mL | O | H2O
solvent | HCl | 3 N, 63 mL | Cl | ClH
product | 9-benzyl-7-oxo-3,9-diaza-bicyclo[3.3.1]nonane-3-carboxylic acid tert-butyl ester | 15.1 g, 48% | C(C)(C)(C)OC(=O)N1CC2CC(CC(C1)N2CC2=CC=CC=C2)=O | C19H26N2O3
